US08357679B2
N-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-4-hydroxy-4-methylpentanamide
5,5-Dimethyldihydrofuran-2(3H)-one (0.433 mmol, 0.049 g) was stirred in toluene (5 mL). Trimethylaluminium (0.867 mmol, 0.867 mL, 1 M in heptane) was added and the reaction stirred for 10 minutes at room temperature. (4-Aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone (0.433 mmol, 0.2 g) was added and the reaction heated to reflux for 1 hour then a drop of N,N-dimethylformamide was added. The reaction mixture was heated to reflux for 1 hour. The reaction mixture was quenched with water. Ethyl acetate was added and the layers separated. The organic phase was concentrated under vacuum and the resulting residue purified by acidic preparative HPLC to afford the desired compound (1 mg).

reactant | 5,5-Dimethyldihydrofuran-2(3H)-one | 0.433 mmol, 0.049 g | CC1(CCC(O1)=O)C | C6H10O2
reactant | Trimethylaluminium | 0.867 mmol, 1 M, 0.867 mL | C[Al](C)C
reactant | (4-Aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 0.433 mmol, 0.2 g | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H21F6N3O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-4-hydroxy-4-methylpentanamide | 1 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC=C(C=C2)NC(CCC(C)(C)O)=O)C=C1)(F)F | C27H31F6N3O4
